US07943622B2
5-chloro-2-(methylsulfinyl)benzo[d]oxazole)
Iodomethane (1.35 mL, 21.6 mmol) was added to a mixture of 5-chlorobenzo[d]oxazole-2(3H)-thione (2.00 g, 10.8 mmol) and K2CO3 (2.99 g, 21.6 mmol) in THF (43 mL). After 2 h, the reaction mixture was filtered and concentrated under reduced pressure. The crude material was dissolved in CH2Cl2 (40 mL) and meta-chloroperbenzoic acid (50-55%, 3.73 g, 10.8 mmol) was added at 0° C. The reaction was allowed to warm to rt. After stirring overnight, the reaction mixture was diluted with sodium thiosulfate (saturated, aqueous) and the organics were separated. The organics were washed with NaHCO3 (saturated, aqueous, 50 mL) and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. This gave 3.32 g (>100% crude yield) of the desired product as an orange solid. The material was used without further purification. LC-MS: RT=6.60 min., [M+H]+=216.2.

reactant | Iodomethane | 21.6 mmol, 1.35 mL | IC | CH3I
reactant | 5-chlorobenzo[d]oxazole-2(3H)-thione | 10.8 mmol, 2.00 g | ClC=1C=CC2=C(NC(O2)=S)C1 | C7H4ClNOS
reactant | K2CO3 | 21.6 mmol, 2.99 g | C(=O)([O-])[O-].[K+].[K+]
reactant | meta-chloroperbenzoic acid | 10.8 mmol, 3.73 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 43 mL | C1CCOC1 | C4H8O
product | 5-chloro-2-(methylsulfinyl)benzo[d]oxazole | ClC=1C=CC2=C(N=C(O2)S(=O)C)C1 | C8H6ClNO2S
